US06867323B2
Preparation of (Z)-1-[4-(1-Heptenyl)phenyl]ethanone [Table 22, entry 6]
Following General Procedure II, a mixture of KOSiMe3 (570 mg, 4.0 mmol, 2.0 equiv), (Z)-21 (379 mg, 2.2 mmol, 1.1 equiv), 4-iodoacetophenone (492 mg, 2.0 mmol) and Pd(dba2) (58 mg, 0.1 mmol, 0.05 equiv) was stirred at room temperature for 13 h, and then was filtered through SiO2. Purification by column chromatography (RP C18, MeOH/H2O, 9/1) and Kugelrohr distillation afforded 360 mg (83%) of (Z)-154c as colorless oil.

reactant | KOSiMe3 | 4.0 mmol, 570 mg, 2.0 equiv | O([K])[Si](C)(C)C
reactant | 4-iodoacetophenone | 2.0 mmol, 492 mg | CC(=O)C1=CC=C(C=C1)I | C8H7IO
product | (Z)-1-[4-(1-Heptenyl)phenyl]ethanone | C(=C/CCCCC)/C1=CC=C(C=C1)C(C)=O | C15H20O
